US06627644B2
To a solution of 7-methoxy-3,4-dihydro-1H-naphthalen-2-one (6.0 g, 39.7 mmol) in dichloroethane (130 mL) under an inert atmosphere was added propylamine (3.4 mL, 41.7 mmol, 1.05 eq) followed by sodium triacetoxyborohydride (21 g, 99.3 mmol, 2.5 eq) in a single portion. The reaction was allowed to stir at room temperature for 24 h. The mixture was concentrated in vacuo and partitioned between EtOAc (200 mL) and 5% aq. NaOH (100 mL). The aqueous layer was extracted twice more with EtOAc (2×70 mL). The combined organic layers were washed with brine (100 mL), dried over MgSO4, filtered, and concentrated. The residue was taken up in ether (125 mL) and treated with 1N HCl in ether. The salt was filtered and dried to afford (7-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-propyl-amine hydrochloride as a tan solid (5.0 g).

reactant | 7-methoxy-3,4-dihydro-1H-naphthalen-2-one | 39.7 mmol, 6.0 g | COC1=CC=C2CCC(CC2=C1)=O | C11H12O2
reactant | propylamine | 41.7 mmol, 3.4 mL, 1.05 eq | C(CC)N | C3H9N
reactant | sodium triacetoxyborohydride | 99.3 mmol, 21 g, 2.5 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | dichloroethane | 130 mL | ClC(C)Cl | C2H4Cl2
product | (7-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-propyl-amine hydrochloride | 5.0 g | Cl.COC1=CC=C2CCC(CC2=C1)NCCC | InChI=1S/C14H21NO.ClH/c1-3-8-15-13-6-4-11-5-7-14(16-2)10-12(11)9-13;/h5,7,10,13,15H,3-4,6,8-9H2,1-2H3;1H
